US07968554B2
A solution of 3-chlorobenzoyl chloride (32.81 g, 187.5 mmol, Aldrich) in tetrahydrofuran (50 mL) was added to a solution of 5-amino-o-cresol (9.24 g, 75 mmol, Aldrich), triethylamine (31.43 mL, 225 mmol, Aldrich) and tetrahydrofuran (150 mL) dropwise with magnetic stirring and cooling in an ice-water bath. When the addition was complete, the mixture was allowed to warm to room temperature and stirred for 16 hours. The mixture was then diluted with water (200 mL) and saturated aqueous sodium bicarbonate solution (200 mL). After stirring for another 30 minutes, precipitate was collected to give crude 3-chloro-benzoic acid 5-(3-chloro-benzoylamino)-2-methyl-phenyl ester as an off-white powder. (Yield 31.74 g). Crude 3-chloro-benzoic acid 5-(3-chloro-benzoylamino)-2-methyl-phenyl ester (11.42 g, 28.5 mmol) was dissolved in a mixture of tetrahydrofuran (70 mL), methanol (140 mL) and aqueous 1N sodium hydroxide (28.5 mL, 28.5 mmol). The mixture was stirred at room temperature for 18 hours and then concentrated under reduced pressure to remove most of the organic solvent. The resulting suspension was diluted with water (90 mL) and saturated aqueous sodium bicarbonate solution (10 mL). After standing for 30 minutes, precipitate was collected, washed with water and dried to give 3-chloro-N-(3-hydroxy-4-methyl-phenyl)-benzamide as an off white powder. (Yield 6.06 g).

reactant | 3-chloro-benzoic acid 5-(3-chloro-benzoylamino)-2-methyl-phenyl ester | 28.5 mmol, 11.42 g | ClC=1C=C(C(=O)NC=2C=CC(=C(C2)OC(C2=CC(=CC=C2)Cl)=O)C)C=CC1 | C21H15Cl2NO3
reactant | sodium hydroxide | 28.5 mmol, 1N, 28.5 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
solvent | methanol | 140 mL | CO | CH4O
product | 3-chloro-N-(3-hydroxy-4-methyl-phenyl)-benzamide | ClC=1C=C(C(=O)NC2=CC(=C(C=C2)C)O)C=CC1 | C14H12ClNO2
